Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ year old female with a history of recurrent PEs on 
anticoagulation and recent hysterectomy (___) who presents 
with abdominal pain. Her pain is located predominantly in her 
left lower abdomen along the area of her hysterectomy scar. The 
pain started yesterday and is non-radiating and exacerbated by 
movemement and touch. No n/v/d. No constipation or change in 
bowel habits. Her post-op course was complicated by poor wound 
healing,cellulitis requiring ___ for wound packing and dressing 
changes. She has also been having intermittent chest pain. Pain 
is described as brief episodes of ___, restro-sternal 
non-radiating, sharp in character exacerbated by deep breathing. 
No diaphoresis, no nausea or vomiting.No fevers or chills. She 
states the pain is similar to her pain with the PEs. She also 
just got over a bad "cold" and was told that she needed to get 
something to open her airways up. The patient's primary concern 
is the lower abdominal pain. She states that this morning after 
her shower she had fairly sudden onset of lower abd pain along 
her hysterectomy scar.  
.  
ED COURSE: Initial vital signs were 99.5 117/77 18 98%RA. An EKG 
was read as sinus at 96. TWI III, avF, ___hanges consistent with prior. CTA was negative for PE. She was 
given a dose of ancef for cellulitis.  

 
Past Medical History:
pulmonary embolisms ___ post-op, second unprovoked. neg 
hypercoag eval by heme)  
fibroids s/p supracervical hysterectomy, repair of bowel serosa 
injury, cystoscopy (___)  
osteoarthritis s/p knee replacement  
obesity  
sleep apnea  
anxiety  

 
Social History:
___
Family History:
NC  

 
Physical Exam:
T: 98.3 BP: 128/70 P: 92 RR: 18 O2 sats: 98%RA wt 107kg  
Gen: NAD, ___ woman resting comfortably  
HEENT:NCAT, PERRL, EOMI  
Neck: no masses  
CV: RRR no MRG, nl S1, S2  
Resp: Clear to ascultation  
Abd: NABS, soft in upper abd, +erythema, tenderness to pannus 
and surgical scar line in the lower abdomen. No open area to 
scar line. No drainage.  
Ext: no CCE, 2+/4 symmetric pedal pulses  
Neuro: A,Ox3 coherent response to interview  
CN: II-XII grossly intact  
Sensation: light touch intact to face/hands/feet  
Strength: moving all 4 ext symmetrically  
 
.  

 
Pertinent Results:
EKG: per report sinus at 96. TWI III, avF, ___ 
no changes compared to ___  
CXR: Lungs are clear bilaterally. There may be a small amount of 
atelectasis at the left lung base. Cardiomediastinal silhouette 
is unremarkable. There is no pneumothorax. Visualized osseous 
structures are intact.  
.  
CTA chest: No evidence of pulmonary embolism. no significant 
parenchymal disease.  
.

___ 06:45PM   GLUCOSE-103 UREA N-9 CREAT-0.8 SODIUM-139 
POTASSIUM-4.9 CHLORIDE-104 TOTAL CO2-24 ANION GAP-16
___ 06:45PM   WBC-6.8# RBC-4.13* HGB-11.2* HCT-34.6* MCV-84 
MCH-27.2 MCHC-32.5 RDW-14.9

___ 08:03PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-1 PH-5.0 LEUK-NEG
___ 06:24AM   ___ PTT-40.0* ___
 
Brief Hospital Course:
Abdominal pain:  Pain and erythema along hysterectomy scar, 
thought to be secondary to a mild cellulitis.  In the ED she was 
started on bactrim and augmentin.  Given her pain out of 
proportion to the extent of infection evident on exam, a CT was 
done to evaluate for potential abscess.  CT was unremarkable.  
OB/Gyn was consulted given her history of poor wound healing 
following hysterectomy in ___.  Her pain was felt not to be 
related to her surgery/GYN pathology.  She was treated with 
cefazolin overnight and was discharged home with keflex.  She 
remained afebrile and without a WBC throughout her hospital 
course.  
.  
Chest pain: Given her previous history of PE, she had a CTA 
which was negative for PE.  Her chest pain is thought to be more 
likely secondary to bronchospasm from a recent URI.  She was 
continued on her home inhalers. 
.  
History of PE: Continued on coumadin.  INR was therapeutic 
throughout hospital course.  

 
Medications on Admission:
coumadin 5mg daily  
seroquel 600 mg qhs  
klonopin 0.5 mg bid  
percocet 1 tab q6  
tylenol ___ tab q4-6prn  
albuterol INH  
ambien 10 mg qhs:prn 

 
Discharge Medications:
1. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Quetiapine 200 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
3. Albuterol 90 mcg/Actuation Aerosol Sig: One (1)  Inhalation 
four times a day as needed for shortness of breath or wheezing.  

4. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed.  
5. Warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 9 days.
Disp:*28 Capsule(s)* Refills:*0*
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO q6 hr prn as needed for 5 days.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal wall cellulitis
.
secondary diagnoses:
history of pulmonary emboli on coumadin
fibroids s/p supracervical hysterectomy ___
obesity

 
Discharge Condition:
stable, ambulating, eating

 
Discharge Instructions:
You were admitted with chest and abdominal pain.  You had a CT 
scan of your chest which did not show any blood clots (pulmonary 
emboli). You were diagnosed with a cellulitis of your abdomen 
and started on a antibiotic called keflex.  You should continue 
this antibiotic for a total of 9 days.  No other medication 
changes were made to your medication regimen.  
.
Please call your primary care physician or call ___ if you 
experience fevers, chills, chest pain, shortness of breath, 
worsening abdominal pain, vomiting, worsening rash or other 
concerningsymptoms.
 
Followup Instructions:
___